US05780482
A mixture of 5-amino-2-ethylpyridine (17.6 g) and diethyl ethoxymethylenemalonate (23.25 g) was heated on a steam bath for 2.5 hours. The mixture was cooled in ice. The solid formed was ground up in petroleum ether, b.p. 60°-80° C. and then filtered to give diethyl 2-(6-ethyl-3-pyridylaminomethylene)malonate, m.p. 55°-57° C.

reactant | 5-amino-2-ethylpyridine | 17.6 g | NC=1C=CC(=NC1)CC | C7H10N2
reactant | diethyl ethoxymethylenemalonate | 23.25 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | diethyl 2-(6-ethyl-3-pyridylaminomethylene)malonate | C(C)C1=CC=C(C=N1)NC=C(C(=O)OCC)C(=O)OCC | C15H20N2O4
